US07790710B2
F1. 7-Hydroxymethyl-azepan-2-on
3.10 g of 7-oxo-azepane-2-carboxylic acid ethyl ester (compound G1) are dissolved in 150 ml of dichloromethane under an atmosphere of dry nitrogen. At room temperature, 8.45 ml of lithium boron hydride solution in tetrahydrofuran (strength 2.0 M) are slowly added to the solution in the course of 10 min. Thereafter, the reaction mixture is stirred for 17 hours overnight at room temperature. Subsequently, the mixture is cooled in an ice bath and acidified to pH 1 using hydrochloric acid (strength 3.0 M). Under stirring, the reaction mixture is allowed to warm up to room temperature. Thereafter, potassium carbonate is carefully added thereby re-adjusting neutral pH. The reaction mixture is filtered with suction and the filtrate is concentrated in vacuo. Purification is achieved by flash chromatography (eluent gradient: dichloromethane/0-10 vol. % ethanol) to yield 1.46 g of the title compound as colorless solid of m.p. 100° C. ESI-MS: 144.1 (MH+). TLC: Rf=0.47 (dichloromethane/ethanol 10:1 parts by volume; iodine staining).

reactant | 7-oxo-azepane-2-carboxylic acid ethyl ester | 3.10 g | C(C)OC(=O)C1NC(CCCC1)=O | C9H15NO3
reactant | lithium boron hydride | 8.45 ml | B.[Li]
reactant | hydrochloric acid | 3.0 M | Cl | ClH
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
solvent | tetrahydrofuran | 2.0 M | O1CCCC1 | C4H8O
product | 7-Hydroxymethyl-azepan-2-on | 1.46 g | OCC1CCCCC(N1)=O | C7H13NO2
